US05089614
A. Preparation of 5,5-dimethyl-3-phenyl-2-morpholone
In a manner analogous to that described in Example 1A hereinbefore, 2-amino-2-methyl-1-propanol, benzaldehyde and chloroform are reacted at ice bath temperature in the presence of a phase transfer catalyst and aqueous NaOH is added dropwise into the reaction vessel while the contents are being stirred. The sodium salt of the compound is recovered with an analogous workup, and warmed with a mineral acid to yield a compound which is a hydrochloride. When the hydrochloride is reacted with triethanolamine, the compound recovered is identified as being 5,5-dimethyl-3-phenyl-2-morpholone.

reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaOH | [OH-].[Na+]
reactant | hydrochloride | Cl | ClH
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5,5-dimethyl-3-phenyl-2-morpholone | CC1(COC(C(N1)C1=CC=CC=C1)=O)C | C12H15NO2
